US08106055B2
N-(2-Hydroxyethyl)-4-methoxy-2,3,6,N-tetramethylbenzenesulfonamide (Intermediate A)
A soln. of 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride (2.29 g, 9.19 mmol) in THF (30 ml) was added dropwise to a soln. of 2-methylaminoethanol (0.89 g, 0.95 ml, 11.8 mmol) and Et3N (5 ml) in THF (15 ml) at 0° C. The mixture was subsequently stirred at RT for 5 h and then concentrated i. vac., the residue was taken up in NaHCO3 soln. and the mixture was extracted with EtOAc (3×30 ml). The combined organic phases were dried with Na2SO4 and concentrated i. vac.

reactant | 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride | 9.19 mmol, 2.29 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)C | C10H13ClO3S
reactant | 2-methylaminoethanol | 11.8 mmol, 0.95 ml, 0.89 g | CNCCO | C3H9NO
reactant | Et3N | 5 ml | CCN(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N-(2-Hydroxyethyl)-4-methoxy-2,3,6,N-tetramethylbenzenesulfonamide | OCCN(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)C | C13H21NO4S
